US05484785
Preparation of an Aqueous Solution of Ciprofloxacin 5-Oxotetrahydrofuran-2-carboxylate
1.393 G (corresponding to 1 g of Ciprofloxacin) of each salt obtained in Examples 1-3 was dissolved in water to a 10 mL volume. An adequate amount of sodium chloride was added to the resulting solution to make it isotonic. The isotonic solution was diluted with saline to give a solution containing the salt as an active ingredient in the concentration of 1% (calculated in terms of Ciprofloxacin). The solution thus obtained was adjusted to pH 4.3 with a 2N sodium hydroxide or 2N hydrochloric acid solution.

reactant | Ciprofloxacin | 1 g | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
product | Ciprofloxacin 5-Oxotetrahydrofuran-2-carboxylate | C1CC1N2C=C(C(=O)C3=CC(=C(C=C32)N4CCNCC4)F)C(=O)O.C1CC(=O)OC1C(=O)[O-] | InChI=1S/C17H18FN3O3.C5H6O4/c18-13-7-11-14(8-15(13)20-5-3-19-4-6-20)21(10-1-2-10)9-12(16(11)22)17(23)24;6-4-2-1-3(9-4)5(7)8/h7-10,19H,1-6H2,(H,23,24);3H,1-2H2,(H,7,8)/p-1
